### PR TITLE
Abel backports

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Things done/to do

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by thery** [comment]
maybe to make this PR less scary to review, it would be good to split it in 5 digestible chunks : 
algebra,  field,  fingroup,  solvable,  ssreflect

**Comment by amahboubi** [comment]
I agree with @thery  that this PR is too monolithic.

**Comment by amahboubi** [comment]
Splitting package-wise might not be the most relevant / easy thing to do. For instance, the changes in ssreflect are of quite different nature. But any way to make the reviewing more incremental would be great.

**Comment by amahboubi** [comment]
Also, I offered offline to help with finalizing the PR, in particular with the documentation, but a few sketchy comments in the code would nonetheless be much appreciated.

**Comment by amahboubi** [comment]
E.g., the intended usage of `dfwith`, the expected caveats of novel notations if any, etc.

File: mathcomp/field/galois.v [hunk 1]
```diff
@@ -70,6 +70,164 @@ Qed.
...
+    (p : {poly F}) (E' : {subfield L'}) :
+    splittingFieldFor 1 (p ^ in_alg L) {: L} ->
+    splittingFieldFor 1 (p ^ in_alg L') E' ->
+  {f : 'AHom(L, L') | limg f = E'}.
+Proof.
+do [suff init (p : {poly L}) (k : {subfield L})
+    (K := [FalgType F of subvs_of k]) (f : 'AHom(K, L')) :
+    p \is a polyOver k ->  splittingFieldFor k p fullv ->
+    splittingFieldFor (limg f) (p ^ (f \o vsproj k)) E' ->
+      {g : 'AHom(L, L') | limg g = E'}] in p *.
```
Comment (affeldt-aist) [inline mathcomp/field/galois.v:99]: Maybe avoid the `do [suff ...] in p *` in favor of something more standard using `have`?

Comment (affeldt-aist) [reply mathcomp/field/galois.v:99]: Remove double space line 97

File: mathcomp/field/galois.v [hunk 2]
```diff
@@ -70,6 +70,164 @@ Qed.
...
+  move=> pf pE'; pose K := [FalgType F of subvs_of (1%VS : {vspace L})].
+  have [idF idFE] : {f : 'AHom(K, L') | forall x : F, f x%:A = x%:A}.
+    have flr : lrmorphism
+        (fun v : K => in_alg L' (projT1 (sig_eqW (vlineP _ _ (valP v))))).
+      do ![split] => [? ?|? ?||a ?]/=.
```
Comment (affeldt-aist) [inline mathcomp/field/galois.v:104]: Maybe give a readable name to the hypotheses introduced using `?`.

File: mathcomp/field/galois.v [hunk 3]
```diff
@@ -70,6 +70,164 @@ Qed.
...
+  rewrite (eq_adjoin _ (perm_mem (perm_to_rem x'rs))) adjoin_cons imgfx'.
+  apply: (IHrs <<k; x>>%AS h (p ^ vssub (subv_adjoin k x) %/ ('X - x0%:P))).
+  - rewrite map_divp -map_poly_comp (eq_map_poly (vsval_sub _)).
+    rewrite map_polyXsubC/= (eqp_trans (eqp_divl _ prs))// big_cons.
+    by rewrite mulKp ?polyXsubC_eq0// eqpxx.
+  - by rewrite -adjoin_cons.
+  rewrite map_divp -map_poly_comp map_polyXsubC/= hx0 (eq_map_poly hC).
+  rewrite (eqp_trans (eqp_divl _ prs'))// (big_rem _ x'rs)/=.
+  by rewrite mulKp ?polyXsubC_eq0// eqpxx.
+have /(_ _)/polyOver_subvs/sig_eqW/=-/all_sig[pol polE] := Fadjoin_polyOver k x.
```
Comment (affeldt-aist) [inline mathcomp/field/galois.v:202]: Check whether the `-` is really needed, it may reveal a bug.

File: mathcomp/algebra/intdiv.v [hunk 4]
```diff
@@ -1112,3 +1119,50 @@ rewrite -defS -2!mulmxA; have ->: T *m pinvmx T = 1%:M.
...
+Lemma eisenstein (p : nat) (q : {poly int}) : prime p -> (size q != 1)%N ->
+  (~~ (p %| lead_coef q))%Z -> (~~ ((p : int) ^+ 2 %| q`_0))%Z ->
+  (forall i, (i < (size q).-1)%N -> p %| q`_i)%Z ->
+  irreducible_poly (map_poly (intr : int -> rat) q).
+Proof.
+move=> p_prime qN1 Ndvd_pql Ndvd_pq0 dvd_pq.
+have qN0 : q != 0 by rewrite -lead_coef_eq0; apply: contraNneq Ndvd_pql => ->.
+split.
+   rewrite size_map_poly_id0 ?intr_eq0 ?lead_coef_eq0//.
+   by rewrite ltn_neqAle eq_sym qN1 size_poly_gt0.
```
Comment (affeldt-aist) [inline mathcomp/algebra/intdiv.v:1132]: 3 spaces indent

File: mathcomp/algebra/polydiv.v [hunk 5]
```diff
@@ -3058,6 +3093,85 @@ rewrite -dvdp_size_eqp // eqn_leq dvdp_leq //= leqNgt; apply/negP=> p_gt_q.
...
+Proof.
+move=> q1Nx; have q1N0 : q1 != 0 by apply: contraNneq q1Nx => ->; rewrite root0.
+have [->|q2N0] := eqVneq q2 0; first by rewrite mulr0.
+apply/esym/eqP; rewrite eqn_leq mup_geq ?mulf_neq0// dvdp_mull -?mup_geq//=.
+rewrite mup_leq ?mulf_neq0// Gauss_dvdpr -?mup_ltn//.
+by rewrite coprimep_expl// coprimep_sym coprimep_XsubC.
+Qed.
+
+Lemma mupM x q1 q2 : q1 != 0 -> q2 != 0 ->
+   mup x (q1 * q2) = (mup x q1 + mup x q2)%N.
```
Comment (affeldt-aist) [inline mathcomp/algebra/polydiv.v:3146]: 3 spaces indent

File: mathcomp/algebra/polydiv.v [hunk 6]
```diff
@@ -3058,6 +3093,85 @@ rewrite -dvdp_size_eqp // eqn_leq dvdp_leq //= leqNgt; apply/negP=> p_gt_q.
...
+rewrite mup_geq ?mulf_neq0// exprD ?dvdp_mul; do ?by rewrite -mup_geq.
+have [m1 [r1]] := multiplicity_XsubC q1 x; rewrite q1N0 /= => r1Nx ->.
+have [m2 [r2]] := multiplicity_XsubC q2 x; rewrite q2N0 /= => r2Nx ->.
+rewrite !mupMl// ?mup_XsubCX eqxx/= mulrACA exprS exprD.
+rewrite dvdp_mul2r ?mulf_neq0 ?expf_neq0 ?polyXsubC_eq0//.
+by rewrite dvdp_XsubCl rootM negb_or r1Nx r2Nx.
+Qed.
+
+Lemma mu_prod_XsubC x (s : seq F) :
+   mup x (\prod_(x <- s) ('X - x%:P)) = count_mem x s.
```
Comment (affeldt-aist) [inline mathcomp/algebra/polydiv.v:3158]: 3 spaces indent

File: mathcomp/ssreflect/finset.v [hunk 7]
```diff
@@ -1062,6 +1062,27 @@ End CartesianProd.
 
 Arguments setXP {fT1 fT2 A1 A2 x1 x2}.
 
+Section CartesianNProd.
+
+Variables (I : finType) (fT : I -> finType).
+Variables (A : forall i, {set fT i}).
+Implicit Types (x : {dffun forall i, fT i}).
+
+Definition setXn := [set x : {dffun _} in family A].
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/finset.v:1071]: Should be documented in the header.

File: mathcomp/ssreflect/eqtype.v [hunk 8]
```diff
@@ -525,6 +525,31 @@ Notation "[ 'eta' f 'with' d1 , .. , dn ]" :=
   "'[hv' [ '[' 'eta' '/ '  f ']' '/'  'with'  '[' d1 , '/'  .. , '/'  dn ']' ] ']'"
   ) : fun_scope.
 
+Section DFunWith.
+Variables (I : eqType) (T : I -> Type) (f : forall i, T i).
+
+Definition dfwith i (x : T i) (j : I) : T j :=
+  if (i =P j) is ReflectT ij then ecast j (T j) ij x else f j.
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/eqtype.v:532]: Should be documented in the header. Just copy-paste the documentation from MathComp-Analysis:
```
(*             dfwith f x == fun j => x if j = i, and f j otherwise           *)
(*                           given x : T i                                    *)
```

File: mathcomp/ssreflect/bigop.v [hunk 9]
```diff
@@ -1097,6 +1097,25 @@ Proof. exact: big_nseq_cond. Qed.
...
 
+Lemma big_rcons_op (R : Type) (idx : R) (op : R -> R -> R) (I : Type)
+    (i : I) (r : seq I) (P : pred I) (F : I -> R)
+    (idx' := if P i then op (F i) idx else idx) :
+  \big[op/idx]_(j <- rcons r i | P j) F j = \big[op/idx']_(j <- r | P j) F j.
+Proof. by elim: r => /= [|j r]; rewrite ?(big_nil, big_cons)// => ->. Qed.
+
+Lemma big_change_idx (R : Type) (idx : R) (op : Monoid.law idx) (I : Type)
+    (x : R)  (r : seq I) (P : pred I) (F : I -> R) :
+   \big[op/x]_(j <- r | P j) F j = op (\big[op/idx]_(j <- r | P j) F j) x.
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/bigop.v:1108]: 3 spaces indent

File: mathcomp/ssreflect/bigop.v [hunk 10]
```diff
@@ -1097,6 +1097,25 @@ Proof. exact: big_nseq_cond. Qed.
...
+Proof.
+elim: r => [|i r]; rewrite ?(big_nil, big_cons, Monoid.mul1m)// => ->.
+by case: ifP => // Pi; rewrite Monoid.mulmA.
+Qed.
+Lemma big_rcons (R : Type) (idx : R) (op : Monoid.law idx) (I : Type)
```
Comment (affeldt-aist) [inline mathcomp/ssreflect/bigop.v:1113]: Lacking a blank line

File: mathcomp/fingroup/gproduct.v [hunk 11]
```diff
@@ -1113,6 +1113,165 @@ Qed.
...
+Lemma setXn_dprod H :
+  \big[dprod/1]_i setXn (dfwith (fun=> [1 gT _]) (H i)) = setXn H.
+Proof.
+rewrite -setXn_prod//=.
+pose G i := setXn_group (group_dfwith (fun=> [1 gT _]%G) (H i)).
+have /= /introT/(_ _)/eqP->//= := @bigdprodYP _ _ xpredT G.
+  rewrite bigprodGE.
+  admit.
+move=> i _; rewrite bigprodGE subsetD/= gen_subG.
+Admitted.
```
Comment (affeldt-aist) [inline mathcomp/fingroup/gproduct.v:1245]: Maybe this should not be merged.

File: CHANGELOG_UNRELEASED.md [hunk 12]
```diff
@@ -113,6 +132,75 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+
+- in file `gproduct.v`,
+  + new definitions `extnprod_mulg`, `extnprod_invg`,
+    `extnprod_groupMixin`, and `dfung1`.
+  + new notation `gTn`.
+  + new lemmas `extnprod_mul1g`, `extnprod_mulVg`, `extnprod_mulgA`,
+    `oneg_ffun`, `mulg_ffun`, `invg_ffun`, `prodg_ffun`,
+    `group_setXn`, `dfung1_id`, `dfung1_dflt`, `dfung1_morphM`,
+    `dffunM`, `injm_dfung1`, `group_set_dfwith`, `group_dfwithE`,
+    `morphim_dfung1`, `morphim_dffunXn`, `setXn_prod`, `setXn_dprod`,
```
Comment (affeldt-aist) [inline CHANGELOG_UNRELEASED.md:173]: `setXn_dprod` is actually an admitted lemma. Remove?

File: mathcomp/fingroup/gproduct.v [hunk 13]
```diff
@@ -1113,6 +1113,165 @@ Qed.
...
 End ExternalDirProd.
 
+Section ExternalDirDepProd.
+
+Variables (I : finType) (gT : I -> finGroupType).
+Notation gTn := {dffun forall i, gT i}.
+Implicit Types (H : forall i, {group gT i}) (x y : {dffun forall i, gT i}).
+
+Definition extnprod_mulg (x y : gTn) : gTn := [ffun i => (x i * y i)%g].
+Definition extnprod_invg (x : gTn) : gTn := [ffun i => (x i)^-1%g].
```
Comment (affeldt-aist) [inline mathcomp/fingroup/gproduct.v:1123]: Need to be documented in the header.

File: mathcomp/field/fieldext.v [hunk 14]
```diff
@@ -403,6 +415,37 @@ Canonical subvs_fieldType K :=
...
+Lemma vsproj_is_lrmorphism :  lrmorphism (vsproj {:L}).
+Proof.
+split; last exact/linearZZ.
+split; first exact/raddfB.
+by split => [v w|]; apply/val_inj; rewrite /= !vsprojK ?memvf ?algid1.
+Qed.
+Canonical vsproj_lrmorphism := LRMorphism vsproj_is_lrmorphism.
+Canonical vsproj_rmorphism := RMorphism vsproj_is_lrmorphism.
+
+Definition vssub (k K : {vspace L}) of (k <= K)%VS :
```
Comment (affeldt-aist) [inline mathcomp/field/fieldext.v:427]: Need to be documented

File: mathcomp/field/falgebra.v [hunk 15]
```diff
@@ -1006,13 +1101,24 @@ Lemma adjoin_seqSr U rs1 rs2 :
...
+Qed.
+
 End Closure.
 
 Notation "<< U >>" := (agenv_aspace U) : aspace_scope.
 Notation "<< U & vs >>" := (agenv (U + <<vs>>)) : vspace_scope.
 Notation "<< U ; x >>" := (agenv (U + <[x]>)) : vspace_scope.
 Notation "<< U & vs >>" := << U + <<vs>> >>%AS : aspace_scope.
-Notation "<< U ; x >>" := << U + <[x]> >>%AS : aspace_scope. 
+Notation "<< U ; x >>" := << U + <[x]> >>%AS : aspace_scope.
```
Comment (affeldt-aist) [inline mathcomp/field/falgebra.v:1121]: Notation need to be documented.

File: mathcomp/field/cyclotomic.v [hunk 16]
```diff
@@ -315,3 +315,160 @@ rewrite -lead_coef_eq0 -absz_eq0.
...
+Lemma prim_root1 (F : fieldType) n : (n.-primitive_root (1 : F)) = (n == 1)%N.
+Proof.
+case: n => [|[|n]]//.
+  by apply/'forall_eqP => i; rewrite ord1//= eqxx; apply/unity_rootP.
+apply/'forall_eqP => /= /(_ (@Ordinal _ n _))/=/(_ _)/unity_rootP.
+by rewrite !ltnS leqnSn ltn_eqF//; apply => //; rewrite expr1n.
+Qed.
+
+Lemma prim2_rootN1 (F : fieldType) : 2%:R != 0 :> F ->
+   2.-primitive_root (- 1 : F).
```
Comment (affeldt-aist) [inline mathcomp/field/cyclotomic.v:340]: 3 spaced indent

File: mathcomp/field/algC.v [hunk 17]
```diff
@@ -1249,3 +1249,265 @@ End AlgebraicsTheory.
...
+      algR_addr_gt0 algR_ger_leVge algR_normrM algR_ler_def.
+
+Canonical algR_numDomainType  := NumDomainType algR algR_numMixin.
+Canonical algR_normedZmodType := NormedZmodType algR algR algR_normedMixin.
+Canonical algR_numFieldType := [numFieldType of algR].
+Canonical algR_realDomainType := [realDomainType of algR].
+Canonical algR_realFieldType := [realFieldType of algR].
+End Num.
+
+Definition algR_archiFieldMixin : Num.archimedean_axiom [numDomainType of algR].
```
Comment (affeldt-aist) [inline mathcomp/field/algC.v:1330]: Is there a reason why it is a definition and not a lemma?

**Comment by affeldt-aist** [comment]
I have just reported a few comments that were made during today's meeting + alpha but maybe I should have addressed most of them myself directly. I'll try to do that a bit later.

File: mathcomp/algebra/polydiv.v (hunk 6 above)
Comment (affeldt-aist) [reply mathcomp/algebra/polydiv.v:3158]: Shouldn't this name be `mup_prod_XsubC`?

**Comment by affeldt-aist** [comment]
Compilation fails in `galois.v`. I am afraid I am missing something.

**Comment by proux01** [comment]
Partially rebased now that https://github.com/math-comp/math-comp/pull/1184 and https://github.com/math-comp/math-comp/pull/1185 are merged.
